US07855290B2
N-{2,5-Difluoro-4-[(4-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyrimidin-6-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
N-{4-[(4-Aminopyrimidin-6-yl)oxy]-2,5-difluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (100 mg) was dissolved in tetrahydrofuran (5 ml) under a nitrogen atmosphere, triethylamine (0.080 ml) and phenyl chloroformate (0.070 ml) were added dropwise at room temperature, followed by stirring for 10 min. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with a 1N aqueous solution of sodium hydroxide and brine, dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (2.5 ml). To the solution were added 3-hydroxyazetidine hydrochloride (150 mg) and triethylamine (0.250 ml) at room temperature, followed by stirring for 63 hr. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with a 1N aqueous solution of sodium hydroxide and brine, dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=95:5), and fractions containing the target compound were concentrated under reduced pressure. To the resultant residue was added diethyl ether:heptane=1:2 to precipitate a solid. The solid was collected by filtration and dried under aeration to provide the titled compound as white powder (57.3 mg, 47%).

reactant | N-{4-[(4-Aminopyrimidin-6-yl)oxy]-2,5-difluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 100 mg | NC1=NC=NC(=C1)OC1=CC(=C(C=C1F)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F | C21H16F3N5O3
reactant | triethylamine | 0.080 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.070 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-{2,5-Difluoro-4-[(4-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyrimidin-6-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 57.3 mg, 47% | FC1=C(C=C(C(=C1)OC1=CC(=NC=N1)NC(=O)N1CC(C1)O)F)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C25H21F3N6O5
